US04871841
(E) 3-[[(1,4-Dihydro-5-hydroxy-4-oxo-2-pyridinyl)carbonyl]-amino]tetrahydro-2-oxo-1(2H)-pyrimidinecarboxamide
3-[[[4,5-bis(phenylmethoxy)-2-pyridinyl]carbonyl]amino]-tetrahydro-2-oxo-1(2H)-pyrimidinecarboxamide (27.45 g, 57.7 mmol), dissolved in 750 ml N,N-dimethylformamide, was hydrogenated for 1.5 hours over 10 g palladium on activated carbon. The catalyst was removed by filtration and the solvent distilled off in vacuo. The residue was triturated twice with ether to give two batches (15.5 g and 4.0 g) of the desired product, melting point 215°-220° C.

reactant | 3-[[[4,5-bis(phenylmethoxy)-2-pyridinyl]carbonyl]amino]-tetrahydro-2-oxo-1(2H)-pyrimidinecarboxamide | 57.7 mmol, 27.45 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)NN1C(N(CCC1)C(=O)N)=O | C25H25N5O5
solvent | N,N-dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
catalyst | palladium on activated carbon | 10 g | [Pd] | Pd
product | 3-[[(1,4-Dihydro-5-hydroxy-4-oxo-2-pyridinyl)carbonyl]-amino]tetrahydro-2-oxo-1(2H)-pyrimidinecarboxamide | OC=1C(C=C(NC1)C(=O)NN1C(N(CCC1)C(=O)N)=O)=O | C11H13N5O5
